US07105516B2
trans-2-(3-Cyano-1H-indol-5-yl)-cyclopentanecarboxylic acid
A solution of cis-2-(3-Cyano-1H-indol-5-yl)-cyclopentanecarboxylic acid ethyl ester (0.95 g, 3.36 mMol), lithium hydroxide monohydrate (0.71 g, 16.8 mMol), methanol (20 mL), and water (5 mL) was heated at reflux for 6 h. The solution was concentrated in vacuo and the residue dissolved in water and washed once with dichloromethane. The aqueous layer was acidified with concentrated hydrochloric acid and extracted with ethyl acetate (3×20 mL). The pooled organic extracts were washed once with brine, dried over sodium sulfate, and concentrated in vacuo to give the product as a light brown oil which solidified upon standing (0.66 g, 77%). LC-MS: 1.33 min (2 min gradient); 277.07 (MNa)+.

reactant | cis-2-(3-Cyano-1H-indol-5-yl)-cyclopentanecarboxylic acid ethyl ester | 3.36 mMol, 0.95 g | C(C)OC(=O)[C@H]1[C@H](CCC1)C=1C=C2C(=CNC2=CC1)C#N | C17H18N2O2
reactant | lithium hydroxide monohydrate | 16.8 mMol, 0.71 g | O.[OH-].[Li+]
reactant | methanol | 20 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | trans-2-(3-Cyano-1H-indol-5-yl)-cyclopentanecarboxylic acid | C(#N)C1=CNC2=CC=C(C=C12)[C@H]1[C@@H](CCC1)C(=O)O | C15H14N2O2
